US07759337B2
Synthesis of 6-(dimethylamino)-2-fluoropyridin-3-ylboronic acid
In a microwave tube was placed 2,6-difluoropyridine (0.500 mL, 5.47 mmol), dimethylamine, (2.0 M solution in THF, 4.11 mL, 8.21 mmol). The mixture was heated at 150° C. for 20 min. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give 536 mg of a crude yellow oil, which was purified by column chromatography (3/1 Hex/ethyl acetate) to give 500 mg of 6-fluoro-N,N-dimethylpyridin-2-amine as a light yellow oil. To a solution of diisopropylamine (0.15 mL, 1.1 mmol) in 2 mL of THF at 0° C. was added butyllithium (1.6 M in hexane, 0.69 mL, 1.1 mmol). The reaction stirred for 30 minutes and was then cooled to 60° C. at which time 6-fluoro-N,N-dimethylpyridin-2-amine (0.124 g, 0.88 mmol) was added in 1 mL of THF. The reaction stirred at −60° C. for 45 min. Then triisopropyl borate (0.25 mL, 1.1 mmol) was added and the reaction was allowed to stir for 1 h at 23° C. Ammonium chloride (sat.) was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give 136 mg of a brown oil, which was purified by column chromatography (3/1 hexanes/ethyl acetate to 1/1 EtOAc/hexanes) to give 46 mg of a white solid. ES+=185.1 (M+H)

reactant | diisopropylamine | 1.1 mmol, 0.15 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.1 mmol, 1.6 M, 0.69 mL | C(CCC)[Li]
reactant | 6-fluoro-N,N-dimethylpyridin-2-amine | 0.88 mmol, 0.124 g | FC1=CC=CC(=N1)N(C)C | C7H9FN2
reactant | triisopropyl borate | 1.1 mmol, 0.25 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(dimethylamino)-2-fluoropyridin-3-ylboronic acid | 136 mg | CN(C1=CC=C(C(=N1)F)B(O)O)C | C7H10BFN2O2
